US03933794
A stirred solution of 6.53 g. of 7-bromo-1,3-dihydro-5-(2-pyridyl)-2H-1,4-benzodiazepin-2-one (prepared as in J. Pharm. Sci. 53, 264) in 400 ml. of dry pyridine is heated in an oil bath, under nitrogen, with 5.05 g. of phosphorus pentasulfide at between about 110° to 120° C. for about 1 hour, cooled and concentrated under vacuum. Pyridine remaining in the residue is removed by the successive addition of xylene and toluene with vacuum concentration after each addition of solvent. The dark brown solid residue is triturated with a mixture of aqueous sodium carbonate solution and chloroform and the resulting finely divided tan solid is collected by filtration, washed with water, dissolved in a mixture of chloroform and ethanol, decolorized with activated carbon and crystallized to yield 3.39 g. of product melting at 249° C. (with decomposition) and 0.559 g. melting at 243° C. (with decomposition). The analytical sample is crystallized from ethanol to give pure 7-bromo-1,3-dihydro-5-(2-pyridyl)-2H-1,4-benzodiazepine-2-thione, with a melting point of 245° to 246° C. (with decomposition) and ultraviolet (ethanol) end absorption, μmax 219 mu (ε=24,100).

reactant | 7-bromo-1,3-dihydro-5-(2-pyridyl)-2H-1,4-benzodiazepin-2-one | BrC=1C=CC2=C(C(=NCC(N2)=O)C2=NC=CC=C2)C1 | C14H10BrN3O
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7-bromo-1,3-dihydro-5-(2-pyridyl)-2H-1,4-benzodiazepine-2-thione | BrC=1C=CC2=C(C(=NCC(N2)=S)C2=NC=CC=C2)C1 | C14H10BrN3S
